US07662825B2
N-(5-Bromo-3-methoxy-2-pyrazinyl)2-iodobenzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 5-bromo-3-methoxy-2-pyrazinamine and 2-iodobenzenesulphonyl chloride.

reactant | 5-bromo-3-methoxy-2-pyrazinamine | BrC=1N=C(C(=NC1)N)OC | C5H6BrN3O
reactant | 2-iodobenzenesulphonyl chloride | IC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClIO2S
product | N-(5-Bromo-3-methoxy-2-pyrazinyl)2-iodobenzenesulphonamide | BrC=1N=C(C(=NC1)NS(=O)(=O)C1=C(C=CC=C1)I)OC | C11H9BrIN3O3S
